US08227481B2
4-(3-Oxo-propyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester
4-But-3-enyl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (13.5 g, 43.48 mmol, 1 eq) was dissolved in i-PrOH (217 mL) and a solution of NaIO4 (20.23 g, 94.6 mmol, 2.18 eq) in 217 mL of water was added followed by OsO4 (37 mg, 0.144 mmol, 0.003 eq). The reaction mixture was vigorously stirred for 6 h. The reaction mixture was then quenched with 1500 mL of water, transferred to a separatory funnel and extracted with ethyl acetate (3×200 mL). The combined organics were dried over Na2SO4 and purified by column chromatography on silica gel (300 g column, 30% EtOAc in heptanes; 50 mL/min). This gave 8.5 g (63%) of the title compound as a beige oil.

reactant | 4-But-3-enyl-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 43.48 mmol, 13.5 g, 1 eq | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CCC=C | C17H29NO4
reactant | i-PrOH | 217 mL | CC(C)O | C3H8O
solvent | water | 217 mL | O | H2O
catalyst | OsO4 | 0.144 mmol, 37 mg, 0.003 eq | O=[Os](=O)(=O)=O
product | 4-(3-Oxo-propyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CCC=O | C16H27NO5
